US07932246B2
2-[6-(Quinolin-2-ylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxylic acid
Ethyl 2-[6-(quinolin-2-ylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxylate (0.98 mmol) was stirred in THF (10 ml) and H2O (10 ml) at r.t. for 64 h. The reaction was then acidified to pH˜3 and the solvent removed in vacuo to give a brown solid. The solid was collected and washed with a little H2O to give the title compound as a brown solid (103 mg, 30% over 3 steps). LCMS purity 90%, m/z 348 [M+H]+.

reactant | Ethyl 2-[6-(quinolin-2-ylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxylate | 0.98 mmol | N1=C(C=CC2=CC=CC=C12)NC1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC | C21H21N5O2
reactant | H2O | 10 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[6-(Quinolin-2-ylamino)-3-azabicyclo[3.1.0]hex-3-yl]pyrimidine-5-carboxylic acid | 103 mg, 30% | N1=C(C=CC2=CC=CC=C12)NC1C2CN(CC12)C1=NC=C(C=N1)C(=O)O | C19H17N5O2
